US04999130
0.30 g (2.1 mM) of (-)-2-cyano-2-methylpentanoic acid was dissolved in 3 ml of dry ethanol. To the mixture under stirring, 0.49 g (3.2 mM) of phosphorus oxychloride was added dropwise. After the reaction for 3 hours at 80° C., 6 ml of 1N-sodium carbonate aqueous solution was added, followed by extraction with diethyl ether. The resultant ether solution was dried on anhydrous sodium sulfate, followed by distilling-off of the solvent and distillation to obtain 0.32 g (1.9 mM) of (-)-ethyl 2-cyano-2-methylpentanoate. Yield:90%, b.p.:110° C./22 mmHg, [α]D -3.0 degrees, [α]435 -4.5 degrees, (c1, methanol)

reactant | (-)-2-cyano-2-methylpentanoic acid | 2.1 mM, 0.30 g | C(#N)C(C(=O)O)(CCC)C | C7H11NO2
reactant | phosphorus oxychloride | 3.2 mM, 0.49 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 3 ml | C(C)O | C2H6O
product | (-)-ethyl 2-cyano-2-methylpentanoate | 1.9 mM, 0.32 g, Yield:90% | C(#N)C(C(=O)OCC)(CCC)C | C9H15NO2
